US07262212B2
A solution of 1-benzyl-4-[4-(tetrahydropyran-2-yloxy)phenyl]piperidin-4-ol (1.67 g, 4.55 mmol) prepared in Reference Example 197 in acetonitrile (45 ml) was cooled to −10° C., to which triethylsilane (2.9 ml, 18.2 mmol) and boron trifluoride diethyl ether complex (1.1 ml, 9.1 mmol) were added, and the mixture was stirred at room temperature for 2 days. Water was added to the reaction mixture, and the mixture was extracted with methylene chloride. The extract was dried over magnesium sulfate, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethanol (50 ml), to which a catalytic amount of 20% palladium hydroxide/carbon was added. The mixture was stirred at room temperature under an atmospheric pressure of hydrogen overnight. The reaction mixture was filtered through Celite, di-tert-butyl dicarbonate (1.1 ml, 4.78 mmol) was added to the filtrate, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=50/1) to afford tert-butyl 4-(4-hydroxyphenyl)piperidine-1-carboxylate (1.07 g, yield 85%) as a colorless crystalline powder.

reactant | 1-benzyl-4-[4-(tetrahydropyran-2-yloxy)phenyl]piperidin-4-ol | 4.55 mmol, 1.67 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)OC1OCCCC1 | C23H29NO3
reactant | triethylsilane | 18.2 mmol, 2.9 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | Water | O | H2O
reactant | di-tert-butyl dicarbonate | 4.78 mmol, 1.1 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | tert-butyl 4-(4-hydroxyphenyl)piperidine-1-carboxylate | 1.07 g, yield 85% | OC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H23NO3
